US04996202
(R)-8-Formamido-7-chloro-3-methyl-1-phenyl-2,3,4,5-tetrahydro-1H-3-benzazepine
Formic acid (2.25 g, 95-97%) was added dropwise to acetic anhydride (4.10 g.) at 0° C. with stirring. The resulting solution was heated under nitrogen in a water bath at 50°-60° C. with stirring for 2 hours longer. The solution was cooled down to room temperature and diluted with 5 ml of THF. A solution of (R)-8-amino-7-chloro-3-methyl-1-phenyl-2,3,4,5-tetrahydro-1H-3-benzazepine (5.10 g, 0.018 mol) in 25 ml of THF was added dropwise with stirring to the above solution. The resulting solution was stirred at room temperature for 3.5 hours longer and left standing at room temperature for 24 hours. The THF was evaporated in vacuo and the residue was treated with ether and 1N Na2CO3. The dried ether solution was evaporated in vacuo. The residue crystallized from acetonitrile, m.p. 135°-136° C. [α]26D +72.6° C. (DMF, c=1).

reactant | Formic acid | 2.25 g | C(=O)O | CH2O2
reactant | acetic anhydride | 4.10 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | (R)-8-amino-7-chloro-3-methyl-1-phenyl-2,3,4,5-tetrahydro-1H-3-benzazepine | 0.018 mol, 5.10 g | NC=1C(=CC2=C([C@H](CN(CC2)C)C2=CC=CC=C2)C1)Cl | C17H19ClN2
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | (R)-8-Formamido-7-chloro-3-methyl-1-phenyl-2,3,4,5-tetrahydro-1H-3-benzazepine | C(=O)NC=1C(=CC2=C([C@H](CN(CC2)C)C2=CC=CC=C2)C1)Cl | C18H19ClN2O
